US05104867
20-(1) 15.6 g of triphenylphosphine were added to a suspension of 3 g of 4-hydroxy-2-pyrrolidinone in 200 ml of tetrahydrofuran, and then the mixture was stirred at room temperature for 5 minutes, after which it was cooled to -20° C. A solution of 9.3 ml of diethyl azodicarboxylate in 9 ml of tetrahydrofuran was added dropwise, whilst cooling at -12° C. to -20° C., to the previous solution. The mixture was then stirred at 0°-5° C. for 5 minutes, after which it was again cooled to -20° C. 4.2 ml of thioacetic acid were then added dropwise to the mixture, whilst cooling at -18° C. to -20° C. The mixture was then warmed to 0-5° C. and stirred at that temperature for 2 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure. The residue was purified first by column chromatography through silica gel, eluted with a 10:1 by volume mixture of ethyl acetate and methanol, and then by column chromatography through silica gel, eluted with a 2:1 by volume mixture of acetonitrile and benzene, to give 2.45 g of 4-acetylthio-2-pyrrolidinone as colorless crystals.

reactant | triphenylphosphine | 15.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxy-2-pyrrolidinone | 3 g | OC1CC(NC1)=O | C4H7NO2
reactant | diethyl azodicarboxylate | 9.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 4.2 ml | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 4-acetylthio-2-pyrrolidinone | 2.45 g | C(C)(=O)SC1CC(NC1)=O | C6H9NO2S
